US04963543
To a suspension of sodium hydride (62.8% in oil) (0.22 g) in N,N-dimethylformamide (5 ml) was added dropwise thiobenzoic S-acid (0.66 ml) under ice-cooling. After stirring under the same condition for 30 minutes, this solution was added to a solution of (2S,4R)-2-(carbamoylmethyl)thiomethyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.68 g) in N,N-dimethylformamide (20 ml) at ambient temperature. The mixture was stirred at 70°-80° C. for 1 hour. The reaction mixture was poured into ice-water (50 ml) and extracted twice with ethyl acetate (50 ml). The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo to give a residue. The residue was chromatographed on silica gel (100 g) eluting with a mixture of dichloromethane and acetone (5:1, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4S)-4-benzoylthio-2-(carbamoylmethyl)thiomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (0.87 g).

reactant | sodium hydride | 0.22 g | [H-].[Na+]
reactant | thiobenzoic S-acid | 0.66 ml | C(C1=CC=CC=C1)(=O)S | C7H6OS
reactant | (2S,4R)-2-(carbamoylmethyl)thiomethyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.68 g | C(N)(=O)CSC[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C16H21N3O8S2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (2S,4S)-4-benzoylthio-2-(carbamoylmethyl)thiomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 0.87 g | C(C1=CC=CC=C1)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CSCC(N)=O | C22H23N3O6S2
